US06114532
a. 4-(cyclohexylcarbonyl)-chlorobenzene
To a mixture of 80 ml (0.78 mol) of chlorobenzene and 30 g (0.22 mol) of aluminium chloride are added dropwise at 15-20° C. 24 ml (0.18 mol) of cyclohexanecarboxylic acid chloride. After one hour at ambient temperature the reaction mixture is heated for 5 hours to 50° C. After cooling, the mixture is then decomposed with ice water/conc. hydrochloric acid and the aqueous phase is extracted with methylene chloride. The combined organic extracts are dried and evaporated down. The residue is distilled under high vacuum (2 mm, 105-115° C.). The desired fraction is combined with water, the precipitate formed is suction filtered and dried.

reactant | chlorobenzene | 0.78 mol, 80 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminium chloride | 0.22 mol, 30 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclohexanecarboxylic acid chloride | 0.18 mol, 24 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 4-(cyclohexylcarbonyl)-chlorobenzene | C1(CCCCC1)C(=O)C1=CC=C(C=C1)Cl | C13H15ClO
